US06090804
9.59 g (93.0 mM) of 3-aminopropionamidoxime was dissolved in 288 ml of 1,3-dimethyl-2-imidazolidinone, 14.46 g (97.65 mM) of phthalic anhydride was added, and the mixture was stirred at room temperature for 1 hour and then at 140° C. for 2 hours. The reaction solution was cooled to room temperature, and 15.6 ml (111.6 mM) of triethylamine and 16.4 g (55.8 mM) of 5-(hexahydro-1H-azepin-1-yl)methyl-2-thiophene carbonylchloride hydrochloride were added. The mixture was stirred -overnight at room temperature, and 720 ml of saturated brine was added. Then, the thus precipitated crystals were collected by filtration and washed with distilled water to give 19.96 g of 0-[5-(hexahydro-1H-azepin-1-yl)methyl-2-thenoyl]-3-phthalimidopropionamidoxime (79% in yield from (hexahydro-IH-azepin-1-yl)methyl-2-thiophene carbonylchloride hydrochloride).

reactant | 3-aminopropionamidoxime | 93.0 mM, 9.59 g | NCCC(N)=NO | C3H9N3O
reactant | phthalic anhydride | 97.65 mM, 14.46 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 111.6 mM, 15.6 ml | C(C)N(CC)CC | C6H15N
reactant | 5-(hexahydro-1H-azepin-1-yl)methyl-2-thiophene carbonylchloride hydrochloride | 55.8 mM, 16.4 g | Cl.N1(CCCCCC1)CC1=CC=C(S1)C(=O)Cl
solvent | 1,3-dimethyl-2-imidazolidinone | 288 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | brine | 720 ml | [Cl-].[Na+].O
product | 0-[5-(hexahydro-1H-azepin-1-yl)methyl-2-thenoyl]-3-phthalimidopropionamidoxime | 19.96 g, 79% | N1(CCCCCC1)CC1=CC=C(S1)C(=O)C12C(C(=O)N(C1=O)CCC(N)=NO)C=CC=C2 | C23H28N4O4S
